US04920116
3,4-Dimethoxybenzeneethanamine
In a manner similar to Preparation 2 react 3,4-dimethoxybenzeneacetonitrile with lithium aluminum hydride to obtain the title compound.

reactant | 3,4-dimethoxybenzeneacetonitrile | COC=1C=C(C=CC1OC)CC#N | C10H11NO2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 3,4-Dimethoxybenzeneethanamine | COC=1C=C(C=CC1OC)CCN | C10H15NO2
